US04678781
The starting material may be prepared as follows: Reaction of 4-methylthiopyridine with 5 equivalents of chloroacetone at 40°-50° for 18 hours gave 1-acetylmethyl-4-methylthiopyridinium chloride. n.m.r. in solvent B: 2.27(s, 3H); 2.71(s, 3H); 6.0(s, 2H); 7.93(d, 2H); 8.5(d, 2H). Oxidation of this compound with a slight excess of metachlorpenbenzoic acid in CH2Cl2 /TFA at 0° to ambient temperature gave 1-acetylmethyl-4-methanesulphinyl pyridinium chloride. n.m.r. in solvent B: 2.32(s, 3H); 3.01(s, 3H); 5.84(s, 8.5(d, 2H); 9.0(d, 2H).

reactant | 4-methylthiopyridine | CSC1=CC=NC=C1 | C6H7NS
reactant | chloroacetone | 5 equivalents | ClCC(C)=O | C3H5ClO
product | 1-acetylmethyl-4-methylthiopyridinium chloride | [Cl-].C(C)(=O)C[N+]1=CC=C(C=C1)SC | InChI=1S/C9H12NOS.ClH/c1-8(11)7-10-5-3-9(12-2)4-6-10;/h3-6H,7H2,1-2H3;1H/q+1;/p-1
